US07521462B2
n-BuLi (1.6M in hexanes, 0.50 mL, 0.8 mmol) is added to a cold (−78° C.) solution of (2,4-dichloro-thiazol-5-ylmethyl)-isobutyl-piperdin-4-yl-amine (0.0995 g, 0.3 mmol) in anhydrous tetrahydrofuran. After stirring for 1 h at −78° C., aqueous saturated NaHCO3 is added, then poured in 100 mL aqueous saturated NaHCO3, extracted with ethyl acetate (3×100 mL). The layers are separated and the organic layer dried over Na2SO4, filtered, and concentrated. The crude material is purified on silica gel eluting with 1% NH4OH/10% ethanol/chloroform to yield (0.069 g, 78%) N-(2-methylpropyl)-N-[(4-chloro-1,3-thiazol-5-yl)methyl]piperidin-4-amine: mass spectrum (ion spray): m/z=288.1 (M+1); 1H NMR (CDCl3): δ=8.64 (1H, s), 3.81 (2H, s), 3.16 (2 H, brd), 2.60-2.49 (3H, m), 2.32 (2H, d), 1.82-1.62 (4H, m), 1.53-1.39 (2H, m), 0.91 (6H, d).

reactant | n-BuLi | 0.8 mmol, 1.6M, 0.50 mL | [Li]CCCC
reactant | (2,4-dichloro-thiazol-5-ylmethyl)-isobutyl-piperdin-4-yl-amine | 0.3 mmol, 0.0995 g | ClC=1SC(=C(N1)Cl)CN(C1CCNCC1)CC(C)C | C13H21Cl2N3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
product | N-(2-methylpropyl)-N-[(4-chloro-1,3-thiazol-5-yl)methyl]piperidin-4-amine | 0.069 g, 78% | CC(CN(C1CCNCC1)CC1=C(N=CS1)Cl)C | C13H22ClN3S
